US06284863B1
Production of poly(p-hydroxystyrene/p-isopropoxystyrene)
Into a reaction vessel were charged 30.0 parts of the same poly(p-vinylphenol) as that used in Example 1 and 120 parts of acetone. They were stirred to form a solution. Additionally charged were 29.6 parts of anhydrous potassium carbonate and 18.2 parts of isopropyl iodide. The temperature was elevated so that the mixture reached to the lo reflux state. Subsequently, the reflux state was kept for 27 hours. After adding methyl isobutyl ketone, the solution was washed with aqueous oxalic acid solution and then with ion-exchanged water. The organic layer after washing was concentrated to 71 parts, combined with 206 parts of propylene glycol monomethyl ether acetate and further concentrated to 88.6 parts. The solid content of the concentrate measured by weight-loss on heating was 31.92% by weight. By 1H-NMR measurement, it was confirmed that the resin after reaction was a copolymer In which 31.4% of hydroxyl groups in poly(p-vinylphenol) was converted to isopropyl ether. The resin was referred to as Resin RA.

reactant | acetone | CC(=O)C | C3H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | C(C)(C)I | C3H7I
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | poly(p-vinylphenol) | C#CC1=CC=C(C=C1)O | C8H6O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | p-hydroxystyrene p-isopropoxystyrene | OC1=CC=C(C=C)C=C1.C(C)(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C11H14O.C8H8O/c1-4-10-5-7-11(8-6-10)12-9(2)3;1-2-7-3-5-8(9)6-4-7/h4-9H,1H2,2-3H3;2-6,9H,1H2
